US07888513B2
Under an argon atmosphere, a mixture of 4-cyanobenzoic acid (7.2 mmol), L-tert-leucinol (6.0 mmol), Zn4(OCOCF3)6O (0.3 mmol) and chlorobenzene (10 mL) was heated under reflux for 18 hours. From the resulting solution, the solvent was removed using an evaporator, and the residues were purified by silica gel column chromatography (hexane/ethyl acetate=10/1 (V/V)) to give (S)-4-tert-butyl-2-(4-cyanophenyl)-1,3-oxazoline in 78% yield.

reactant | 4-cyanobenzoic acid | 7.2 mmol | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
reactant | L-tert-leucinol | 6.0 mmol | N[C@@H](C(C)(C)C)CO | C6H15NO
solvent | chlorobenzene | 10 mL | ClC1=CC=CC=C1 | C6H5Cl
product | (S)-4-tert-butyl-2-(4-cyanophenyl)-1,3-oxazoline | 78% yield | C(C)(C)(C)[C@@H]1N=C(OC1)C1=CC=C(C=C1)C#N | C14H16N2O
